US03941889
Preparation of 4-amino-5-phenoxy pyrimidine hydrochloride
To a solution of 15.3 g. (0.082 mol) of 4-amino-5-phenoxy pyrimidine in 100 ml. of 5% methanol in ethyl acetate was slowly added an ethyl acetate solution saturated with HCl gas. The clear solution was heated on a steam bath to remove the methanol until the solution became slightly cloudy. Cooling gave 10.2 g. (55%) of white crystalline solid mp 220°-221°.

reactant | 4-amino-5-phenoxy pyrimidine | 0.082 mol | NC1=NC=NC=C1OC1=CC=CC=C1 | C10H9N3O
reactant | methanol | CO | CH4O
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-amino-5-phenoxy pyrimidine hydrochloride | Cl.NC1=NC=NC=C1OC1=CC=CC=C1 | InChI=1S/C10H9N3O.ClH/c11-10-9(6-12-7-13-10)14-8-4-2-1-3-5-8;/h1-7H,(H2,11,12,13);1H
